US05958942
3,4-Dihydro-2-methyl-3-[5-(trifluoromethanesulfonamido) pentan-1-yl]-1,3,7b-triazacyclopent[cd]inden-4-one
To a solution of 228 mg (0.64 mmol) of 3,4-dihydro-3-[5-(tert-butoxycarbonylamino)pentan-1-yl]-2-methyl-1,3,7b-triazacyclopent[cd]inden-4-one in 5 ml of methanol was added 5 ml of conc. hydrochloric acid. The mixture was stirred for 30 minute at room temperature. The solvent was distilled off. To the residue was added toluene, and the solvent was distilled off. To the residue were added 20 ml of acetonitrile, 0.89 ml (6.39 mmol) of triethylamine and 1.14 g (3.19 mmol) of N-phenyltrifluoromethanesulfonimide. The mixture was stirred for 20 hours at room temperature. The solvent was distilled off. To the residue was added chloroform. The mixture was washed with water and dried over magnesium sulfate. The solvent was distilled off. The residue was purified by column chromatography (eluent: ethyl acetate/ethanol=10:1) to afford 13 mg of the desired compound (5.2%, a pale yellow solid).

reactant | 3,4-dihydro-3-[5-(tert-butoxycarbonylamino)pentan-1-yl]-2-methyl-1,3,7b-triazacyclopent[cd]inden-4-one | 0.64 mmol, 228 mg | C(C)(C)(C)OC(=O)NCCCCCN1C(C=2N3C1=C(N=C3C=CC2)C)=O | C19H26N4O3
reactant | hydrochloric acid | 5 ml | Cl | ClH
reactant | triethylamine | 6.39 mmol, 0.89 ml | C(C)N(CC)CC | C6H15N
reactant | N-phenyltrifluoromethanesulfonimide | 3.19 mmol, 1.14 g | C1=CC=C(C=C1)N(S(=O)(=O)C(F)(F)F)S(=O)(=O)C(F)(F)F | C8H5F6NO4S2
solvent | methanol | 5 ml | CO | CH4O
solvent | acetonitrile | 20 ml | C(C)#N | C2H3N
product | 3,4-Dihydro-2-methyl-3-[5-(trifluoromethanesulfonamido) pentan-1-yl]-1,3,7b-triazacyclopent[cd]inden-4-one | 13 mg | CC=1N=C2C=CC=C3N2C1N(C3=O)CCCCCNS(=O)(=O)C(F)(F)F | C15H17F3N4O3S
